US07244766B2
Preparation 81: 6-Hydroxy-N-methyl-1-naphthamide
Prepared from 6-hydroxy-1-naphthoic acid and methylamine using the method of preparation 57 to give the title compound as a pale orange solid.

reactant | 6-hydroxy-1-naphthoic acid | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | methylamine | CN | CH5N
product | 6-Hydroxy-N-methyl-1-naphthamide | OC=1C=C2C=CC=C(C2=CC1)C(=O)NC | C12H11NO2
